US05306827
Preparation of 2-(p-Chlorophenyl)-5-nitro-3-[(trifluoromethyl)sulfonyl]pyrrole
A solution of 2-(p-chlorophenyl)-3-[(trifluoromethyl)sulfonyl]pyrrole (1.0 g, 0.00323 mol) in acetic anhydride is cooled with an ice bath, treated with nitric acid (0.15 mL, 0.00329 mol), warmed to room temperature, stirred for 20 hours and poured into water. The mixture is decanted and the insolubles are dissolved in ethyl acetate. The ethyl acetate solution is washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain an amber residue. Flash chromatography of the residue using silica gel and a 1:1 ethyl acetate/hexanes solution gives the title product as a tan solid (0.43 g, mp 174°-180° C.) which is identified by 1HNMR spectral analysis.

reactant | 2-(p-chlorophenyl)-3-[(trifluoromethyl)sulfonyl]pyrrole | 0.00323 mol, 1.0 g | ClC1=CC=C(C=C1)C=1NC=CC1S(=O)(=O)C(F)(F)F | C11H7ClF3NO2S
reactant | nitric acid | 0.00329 mol, 0.15 mL | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(p-Chlorophenyl)-5-nitro-3-[(trifluoromethyl)sulfonyl]pyrrole | 0.43 g | ClC1=CC=C(C=C1)C=1NC(=CC1S(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C11H6ClF3N2O4S
